US07750003B2
2-[[2-(4-Aminophenyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]methylsulfonyl]ethanol
trans-Dichlorobis(triphenylphosphine)palladium (II) (0.013 g, 0.02 mmol) was added to 2-[[2-chloro-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]methylsulfonyl]ethanol (0.122 g, 0.36 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.119 g, 0.54 mmol) and sodium carbonate (0.908 mL, 1.82 mmol) in 18% DMF in a mixture of DME:water:ethanol (7:3:2) (10 mL) at RT under nitrogen. The resulting solution was stirred at 80° C. for 2 hours. The reaction was cooled and partitioned between ethyl acetate and water. The reaction mixture was extracted with ethyl acetate twice and the combined organics dried (MgSO4) filtered and concentrated in vacuo to give the desired (0.143 g).

reactant | 2-[[2-chloro-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]methylsulfonyl]ethanol | 0.36 mmol, 0.122 g | ClC1=NC(=CC(=N1)CS(=O)(=O)CCO)N1[C@H](COCC1)C | C12H18ClN3O4S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 0.54 mmol, 0.119 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | sodium carbonate | 1.82 mmol, 0.908 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DME water ethanol | 10 mL | COCCOC.O.C(C)O
catalyst | trans-Dichlorobis(triphenylphosphine)palladium | 0.02 mmol, 0.013 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-[[2-(4-Aminophenyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]methylsulfonyl]ethanol | NC1=CC=C(C=C1)C1=NC(=CC(=N1)CS(=O)(=O)CCO)N1[C@H](COCC1)C | C18H24N4O4S
